US07232821B2
5-[2-(5-chloro-2-(4-fluorobenzyloxy)phenyl)cyclopent-1-enyl]-2-fluorobenzoic acid ethyl ester.
Prepared according to general procedure C(iii) using ethyl 5-bromo-2-fluorobenzoate and 2-(2-(4-fluorobenzyloxy)-5-chlorophenyl)cyclopentene-1-boronic acid to give the product as a colourless solid 43 mg 23%.

reactant | ethyl 5-bromo-2-fluorobenzoate | BrC=1C=CC(=C(C(=O)OCC)C1)F | C9H8BrFO2
reactant | 2-(2-(4-fluorobenzyloxy)-5-chlorophenyl)cyclopentene-1-boronic acid | FC1=CC=C(COC2=C(C=C(C=C2)Cl)C2=C(CCC2)B(O)O)C=C1 | C18H17BClFO3
product | 5-[2-(5-chloro-2-(4-fluorobenzyloxy)phenyl)cyclopent-1-enyl]-2-fluorobenzoic acid ethyl ester | 43 mg, 23% | C(C)OC(C1=C(C=CC(=C1)C1=C(CCC1)C1=C(C=CC(=C1)Cl)OCC1=CC=C(C=C1)F)F)=O | C27H23ClF2O3
